US04814454
6-[(4-Methoxyphenyl)amino]-2-naphthalenol
A solution of 1.00 g (8.1 mmol, Aldrich) of p-anisidine, 5.20 g (32.5 mmol, 4 eq., Aldrich) of 2,6-dihydronaphthalene and 3.38 g (32.5 mmol, 4 eq., Aldrich) of sodium bisulfite in 60 ml of H2O was refluxed for 12 hours. The reaction was cooled to room temperature, extracted with EtOAc, dried (MgSO4) and concentrated in vacuo. Initial purification was accomplished via flash chromatography (1:6, 1:4 EtOAc/petroleum ether) and then concentration of appropriate fractions. Ethyl acetate was added, this was washed repeatedly with warm 0.1N NaOH to remove 2,6-dihydroxynaphthalene, dried (MgSO4) and concentrated in vacuo. Final purification by flash chromatography (1:4 THF/petroleum ether) yielded 633 mg (30%) of title compound as a muddy pink solid, m.p. 152°-153° C.

reactant | p-anisidine | 8.1 mmol, 1.00 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | 2,6-dihydronaphthalene | 32.5 mmol, 5.20 g, 4 eq. | C=1CC=CC2=CCC=CC12 | C10H10
reactant | sodium bisulfite | 32.5 mmol, 3.38 g, 4 eq. | S([O-])(O)=O.[Na+]
solvent | H2O | 60 ml | O | H2O
product | 6-[(4-Methoxyphenyl)amino]-2-naphthalenol | 633 mg, 30% | COC1=CC=C(C=C1)NC=1C=C2C=CC(=CC2=CC1)O | C17H15NO2
